* C:\Users\Admin\Documents\GitHub\Eagle-Public\meng-spad-quenching\usb-power-maker-switchers.asc
XU1 MP_01 N006 MP_02 MP_03 N011 N012 N017 N016 0 N014 +5V N015 N013 +5V MP_04 N019 LT1534-1
L1 N019 0 50n
C1 N011 0 3300p
R1 N012 0 16.9k
V1 +5V 0 3.3V
L2 N005 N006 50µ
L3 N007 N008 50µ
D1 N006 N007 MBR735
C3 N007 0 47µ
R2 0 N013 1k
R3 0 N015 1k
R4 N007 N017 7.5k
R5 N017 0 2.49k
R6 N014 N018 6.8k
C4 N018 0 15n
C5 +5V 0 4.7µ
R7 N002 0 100
R8 N010 N006 10
C6 N010 0 1n
XU2 NC_01 MP_05 NC_02 0 MP_06 NC_03 N002 MP_07 MP_08 +5V N001 NC_04 MP_09 NC_05 LT3032-5
C7 N001 N002 10n
C8 N002 0 10µ
R9 +5V N005 0.1
R10 N009 N008 0.1
R11 N002 N003 100
S1 0 N003 N004 0 MYSW
V2 N004 0 PULSE(0 1 40m 1n 1n 100m 200m)
C9 N014 0 220p
C2 N007 0 47µ
R12 N009 0 20
C10 N009 0 47µ
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.tran 50m
* Based on Cuk converter on pg. 14 of LT1534/1534-1 datasheet
* Without R8/C6 snubber, need to reduce coupling in order to reduce switching node ringing
* SRF0703-820M
.model MYSW SW(Ron=1m Roff=1Meg Vt=.5 Vh=-.4)
.lib LT1534-1.sub
.lib LT3032.lib
.backanno
.end
